US05840751
5,6-Dihydro-4-hydroxy-6-(3-methylphenyl)- 2H-pyran-2-one, (+/-)
The title compound was prepared as described in General Method 1 using 2.0 mL of methyl acetoacetate, 0.8 g of NaH 60% dispersion in oil, 10 mL of 2.0M n-butyl lithium in hexane, 2.6 mL of 3-methylbenzaldehyde and 100 mL of tetrahydrofuran. After addition of the aldehyde, the reaction was stirred for 10 minutes at 0° C. then allowed to warm to room temperature overnight. The crude product was triturated from diethyl ether to afford a solid (m.p. 137°-138° C.). 1H NMR (CDCl3) δ 2.38 (s, 3 H), 2.88 (dd, 1 H), 2.95 (dd, 1 H), 3.57 (dd, 2 H), 5.68 (dd, 1 H), 7.16-7.33 (m, 4 H).

reactant | methyl acetoacetate | 2.0 mL | C(CC(=O)C)(=O)OC | C5H8O3
reactant | NaH | 0.8 g | [H-].[Na+]
reactant | n-butyl lithium | 2.0M, 10 mL | C(CCC)[Li]
reactant | hexane | CCCCCC | C6H14
solvent | 3-methylbenzaldehyde | 2.6 mL | CC=1C=C(C=O)C=CC1 | C8H8O
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | 5,6-Dihydro-4-hydroxy-6-(3-methylphenyl)- 2H-pyran-2-one | OC1=CC(OC(C1)C1=CC(=CC=C1)C)=O | C12H12O3
